US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-[2-methyl-1-(4-methyl-3,4-dihydro-2H-benzo [1,4]oxazine-7-carbonyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (G-8)
To a solution of (2S,4R)-[4-(4-Chloro-phenylamino)-2-methyl-3,4-dihydro-2H-quinolin-1-yl]-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-methanone (540 mg, 1.25 mmol) in methylene chloride (5 mL) was added diisopropylethylamine (0.240 mL, 1.37 mmol) followed by acetyl chloride (2 mL). The mixture was stirred at room temperature 4 hours. The mixture was concentrated under reduced pressure, dissolved in ethyl acetate, washed with sat. aq. NaHCO3, brine and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (25/75 hexanes/ethyl acetate gradient) to afford the final product.

reactant | (2S,4R)-[4-(4-Chloro-phenylamino)-2-methyl-3,4-dihydro-2H-quinolin-1-yl]-(4-methyl-3,4-dihydro-2H-benzo[1,4]oxazin-7-yl)-methanone | 1.25 mmol, 540 mg | ClC1=CC=C(C=C1)N[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC2=C(N(CCO2)C)C=C1)C | C26H26ClN3O2
reactant | diisopropylethylamine | 1.37 mmol, 0.240 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetyl chloride | 2 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-N-(4-Chloro-phenyl)-N-[2-methyl-1-(4-methyl-3,4-dihydro-2H-benzo [1,4]oxazine-7-carbonyl)-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC2=C(N(CCO2)C)C=C1)C | C28H28ClN3O3
